US06166028
[4-(3-Dimethylamino-benzoylamino)-phenyl]-carbamic acid t-butyl ester
A solution of [4-(3-amino-benzoylamino)-phenyl]-carbamic acid t-butyl ester (505 mg), sodium cyanoborohydride (250 mg), acetic acid (3 drops) and 40% aqueous formaldehyde (4 mL) in 1:2 tetrahydrofuran-methanol (15 mL) is stirred for 15 minutes, and then poured into saturated aqueous sodium bicarbonate and extracted into ethyl acetate. The ethyl acetate solution is dried over anhydrous potassium carbonate and concentrated under reduced pressure to give a solid which is recrystallized from acetonitrile to provide a pale pink crystalline solid.

reactant | [4-(3-amino-benzoylamino)-phenyl]-carbamic acid t-butyl ester | 505 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)NC(C1=CC(=CC=C1)N)=O)=O | C18H21N3O3
reactant | sodium cyanoborohydride | 250 mg | C(#N)[BH3-].[Na+]
reactant | formaldehyde | 4 mL | C=O | CH2O
reactant | tetrahydrofuran-methanol | 15 mL | O1C(CCC1)CO | C5H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | [4-(3-Dimethylamino-benzoylamino)-phenyl]-carbamic acid t-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)NC(C1=CC(=CC=C1)N(C)C)=O)=O | C20H25N3O3
